US05760259
7-(p-Butylphenyl)-6-heptenoic acid
This compound was synthesized from 5-carboxypentyltriphenylphosphonium bromide (9.50 g, 20 mmol) and p-butylbenzaldehyde (3.24 g, 20 mmol) in THF (100 mL) by a Wittig reaction. Kugelrohr distillation yielded the product (2.67 g, 51%) as a colorless oil (bp 154°-157° C./0.05 torr). IR: 3400-2500, 1720 cm-1, 1H-NMR: 0.92 (t, 3H), 1.50 (m, 8H), 2.30 (m, 4H), 2.58 (m, 2H), 5.58+6.15 (m, 1H), 6.38 (t, 1H), 7.18 (m, 4H), 0.30 (bs, 1H). Anal. Calcd. for C17H24O2 : C, 78.42, H, 9.29%; Found: C, 78.38, H, 9.29%. Z:E=62:38.

reactant | 5-carboxypentyltriphenylphosphonium bromide | 20 mmol, 9.50 g | [Br-].C(=O)(O)CCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | p-butylbenzaldehyde | 20 mmol, 3.24 g | C(CCC)C1=CC=C(C=O)C=C1 | C11H14O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 7-(p-Butylphenyl)-6-heptenoic acid | 2.67 g, 51% | C(CCC)C1=CC=C(C=C1)C=CCCCCC(=O)O | C17H24O2
